US03969384
A mixture of 0.85 g. of 9-cyclopropylnonanoic acid, 0.45 ml. of thionyl chloride (density 1.656) and 0.10 ml. of dimethylformamide (density 0.945) in 10 ml. ether is stirred overnight at room temperature. The upper layer of the reaction mixture is then separated and the solvent removed by evaporation to yield 9-cyclopropylnonanoyl chloride to which is added at 0° under nitrogen 1.4 g. of 9-octadecen-1-ol and 40 ml. of ether. To this mixture is added dropwise 0.52 ml. of pyridine (density 0.98). The reaction mixture is then stirred 1/2 hour at 0° and overnight at room temperature. The mixture is filtered, 3 equivalents of water are added and then the mixture is stirred for one hour. Ether is added to dilute the reaction mixture which is washed in turn with 2N sulfuric acid (2 × 50 ml.), 10% aqueous sodium carbonate (2 × 50 ml.), water (2 × 50 ml.) saturated aqueous copper sulfate, water (2 × 50 ml.) and saturated aqueous sodium chloride (1 × 50 ml.). The solution is then dried over calcium sulfate and the solvent removed by evaporation to yield 9-octadecenyl 9-cyclopropylnonanoate which is purified by thin layer chromotography (15% ether/hexane solvent).

reactant | 9-cyclopropylnonanoic acid | C1(CC1)CCCCCCCCC(=O)O | C12H22O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | 9-cyclopropylnonanoyl chloride | C1(CC1)CCCCCCCCC(=O)Cl | C12H21ClO
